US05324726
(R)-3-((((2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)amino)carbonyl)amino)benzoic acid
To benzyl m-aminobenzoate (0.25 g, 1.10 mmole) in DMF (17 ml) was added triethylamine (0.23 ml) followed by a solution of (R)-1,3-dihydro-1-methyl-3-(p-nitrophenyloxycarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one (0.469 g, 1.09 mmole) in DMF (23 ml) containing triethylamine (0.23 ml). The mixture was stirred at room temperature for one hour, then treated with water, made acidic with 1N HCl, and extracted with ethyl acetate. The ethyl acetate layers were combined, washed with aqueous sodium bicarbonate, dried over sodium sulfate, filtered, and evaporated to dryness in vacuo. The residue was chromatographed on silica gel eluted with 500 ml each of 5%, 6%, 7%, 9%, 10%, and 12% ether in CH2Cl2. The product fractions were combined and evaporated to dryness in vacuo. A portion of the residue (81.2 mg, 0.086 mmole) was dissolved in ethanol (70 ml) and hydrogenated over palladium/charcoal (20 mg) at 50 psi of H2. The mixture wag filtered and evaporated to dryness in vacuo to provide the title compound.

reactant | benzyl m-aminobenzoate | 1.10 mmole, 0.25 g | NC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1 | C14H13NO2
reactant | triethylamine | 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | (R)-1,3-dihydro-1-methyl-3-(p-nitrophenyloxycarbonyl)amino-5-phenyl-2H-1,4-benzodiazepin-2-one | 1.09 mmole, 0.469 g | CN1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-])=O | C23H18N4O5
reactant | triethylamine | 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 17 ml | CN(C)C=O | C3H7NO
solvent | DMF | 23 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 70 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | 20 mg | [Pd] | Pd
solvent | water | O | H2O
product | (R)-3-((((2,3-Dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)amino)carbonyl)amino)benzoic acid | CN1C([C@@H](N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)NC=2C=C(C(=O)O)C=CC2)=O | C24H20N4O4
